US08633173B2
[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine
[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine was prepared from 8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (100.0 mg, 0.3468 mmol) and 1-[2-(4-bromo-phenoxy)-ethyl]-pyrrolidine (0.10 mL, 0.48 mmol) in a manner analogous to Step 2d. The title compound was isolated as a yellow solid (0.025 g, 15%). MP=170-173° C. 1H NMR (400 MHz, CDCl3, δ, ppm): 8.49-8.45 (m, 1H), 8.25-8.20 (m, 2H), 8.10-8.06 (m, 2H), 7.65-7.61 (m, 1H), 7.51-7.46 (m, 2H), 7.00 (t, J=6.9 Hz, 1H), 6.97-6.93 (m, 2H), 6.70 (s, 1H), 4.11 (t, J=6.1 Hz, 2H), 3.10 (s, 3H), 2.91 (t, J=6.0 Hz, 2H), 2.67-2.60 (m, 4H), 1.86-1.87 (m, 4H). MS=478 (MH)+.

reactant | 8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.3468 mmol, 100.0 mg | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)N | C13H12N4O2S
reactant | 1-[2-(4-bromo-phenoxy)-ethyl]-pyrrolidine | 0.48 mmol, 0.10 mL | BrC1=CC=C(OCCN2CCCC2)C=C1 | C12H16BrNO
product | [8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)OCCN2CCCC2 | C25H27N5O3S
